US06071932
3-Chloro-1-(3-acetyl-9H-carbazol-9-yl)propane (Compound 19)
3-Acetylcarbazole (1.0 g, 0.0048 mol) was dissolved in dry DMF (20 mL) and NaH (50% in oil) (0.13 g, 0.0053 mol) was added. The resulting mixture was stirred at room temperature for 1 h. The reaction mixture was added dropwise to a solution of 1-bromo-3-chloropropane (0.83 g, 0.0053 mol) in DMF (20 mL). The resulting mixture was stirred under a N2 atmosphere for 60 h. The solvent was removed in vacuo, and the residue was purified on a silica gel column (Eluent: CH2Cl2). This afforded the title comoound 0.70 g (51%) as a solid. M.p. 109-111° C.

reactant | 3-Acetylcarbazole | 0.0048 mol, 1.0 g | C(C)(=O)C=1C=CC=2NC3=CC=CC=C3C2C1 | C14H11NO
reactant | NaH | 0.0053 mol, 0.13 g | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 0.0053 mol, 0.83 g | BrCCCCl | C3H6BrCl
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-1-(3-acetyl-9H-carbazol-9-yl)propane | ClCCCN1C2=CC=CC=C2C=2C=C(C=CC12)C(C)=O | C17H16ClNO
